US07989457B2
Step C. 3-(4-{1-[2-(4-Trifluoromethyl-phenyl)-pyrimidin-5-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester
A solution of 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester (140 mg, 0.62 mmol) and 1-[6-(4-trifluoromethyl-phenoxy)-pyridin-3-yl]-heptan-1-ol (175 mg, 0.496 mmol) in toluene (2.0 mL) is degassed and filled with nitrogen for 3 times. Tributyl-phosphine (0.187 mL, 0.744 mmol) is added to the reaction mixture under nitrogen at 0° C., followed by addition of 1,1′-(azodicarbonyl)-dipiperidine (187 mg, 0.744 mmol). The reaction mixture is allowed to warm to room temperature and stirred over night, the mixture is loaded on silica gel column. Chromatography gives the title compound (136 mg).

reactant | 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester | 0.62 mmol, 140 mg | COC(CCNC(C1=CC=C(C=C1)O)=O)=O | C11H13NO4
reactant | 1-[6-(4-trifluoromethyl-phenoxy)-pyridin-3-yl]-heptan-1-ol | 0.496 mmol, 175 mg | FC(C1=CC=C(OC2=CC=C(C=N2)C(CCCCCC)O)C=C1)(F)F | C19H22F3NO2
reactant | Tributyl-phosphine | 0.744 mmol, 0.187 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 0.744 mmol, 187 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{1-[2-(4-Trifluoromethyl-phenyl)-pyrimidin-5-yl]-heptyloxy}-benzoylamino)-propionic acid methyl ester | 136 mg | COC(CCNC(C1=CC=C(C=C1)OC(CCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C29H32F3N3O4
